US08349860B2
To a solution of 2-chloro-4-(3-fluoro-4-(thiazol-4-yl)phenylamino)pyrimidine-5-carboxylic acid (158 mg, 0.450 mmol) and HOBt (103 mg, 0.673 mmol) in DMF (4 mL), EDC (130 mg, 0.678 mmol) was added. The mixture was stirred at room temperature for 1 h. Ammonia (0.5 M in dioxane, 4.50 mL, 2.25 mmol) was added. It was stirred at room temperature overnight. Water and EtOAc were added. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo. The residue was dissolved in H2O and CH3CN (50:50). The insoluble was collected and dried on vacuum to give 2-(1H-benzo[d][1,2,3]triazol-1-yloxy)-4-(3-fluoro-4-(thiazol-4-yl)phenylamino)pyrimidine-5-carboxamide as a solid (36 mg). MS 449.4 (M+H)

reactant | 2-chloro-4-(3-fluoro-4-(thiazol-4-yl)phenylamino)pyrimidine-5-carboxylic acid | 0.450 mmol, 158 mg | ClC1=NC=C(C(=N1)NC1=CC(=C(C=C1)C=1N=CSC1)F)C(=O)O | C14H8ClFN4O2S
reactant | HOBt | 0.673 mmol, 103 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.678 mmol, 130 mg
reactant | Ammonia | 2.25 mmol, 0.5 M, 4.50 mL | N | H3N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | 2-(1H-benzo[d][1,2,3]triazol-1-yloxy)-4-(3-fluoro-4-(thiazol-4-yl)phenylamino)pyrimidine-5-carboxamide | 36 mg | N1(N=NC2=C1C=CC=C2)OC2=NC=C(C(=N2)NC2=CC(=C(C=C2)C=2N=CSC2)F)C(=O)N | C20H13FN8O2S
